USH0000078
Bis-(2,2-dinitropropyl)-glycine (IV).
A solution of 7.5 g. (0.1 mole) of glycine, 4.0 g. (0.1 mole) of sodium hydroxide and 50 ml. of water was mixed with 15.0 g. (0.1 mole) of 2,2-dinitropropanol. The temperature rose to 42° and the yellow solution formed was allowed to stand overnight. Upon addition of dilute sulfuric acid a viscous, colorless oil separated and solidified on standing. The product 15.6 g. (92.0%) was collected and recrystallized from methanol-water to give white crystals, m.p. 123°-124°.

reactant | glycine | 0.1 mole | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 0.1 mole | [OH-].[Na+]
reactant | 2,2-dinitropropanol | 0.1 mole | [N+](=O)([O-])C(CO)(C)[N+](=O)[O-] | C3H6N2O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Bis-(2,2-dinitropropyl)-glycine | [N+](=O)([O-])C(CN(CC(=O)O)CC(C)([N+](=O)[O-])[N+](=O)[O-])(C)[N+](=O)[O-] | C8H13N5O10
